US07875639B2
3-(2-Morpholin-4-yl-ethyl)-1,3-benzothiazol-2(3H)-ylideneamine
Benzothiazol-2-ylamine (1.0 g, 6.6 mmol), 4-(2-chloroethyl)-morpholine hydrochloride (1.2 g, 6.6 mmol) and triethylamine (2.8 mL, 20 mmol) were heated at 80° C. for 16 hours. The solid was recrystallized from ethyl acetate, collected by filtration, dried under vacuum to provide 0.45 g (26%) of the title compound. MS (DCI/N3) m/z 264 (M+H)+.

reactant | Benzothiazol-2-ylamine | 6.6 mmol, 1.0 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | 6.6 mmol, 1.2 g | Cl.ClCCN1CCOCC1
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
product | 3-(2-Morpholin-4-yl-ethyl)-1,3-benzothiazol-2(3H)-ylideneamine | 0.45 g, 26% | N1(CCOCC1)CCN1C(SC2=C1C=CC=C2)=N | C13H17N3OS
